US05250735
A Stork reaction between benzyl chloride and the pyrrolidine enamine of cyclopentanone gave 2-benzylcyclopentanone. The boiling point of this intermediate compound was determined to be 121°-125° C. at a pressure of 2 mm Hg. To a solution containing 32 mmole of 2-benzylcyclopentanone and 48 mmole of 2-methoxybenzaldehyde in 20 ml of methanol was added 12 ml of 5% NaOH with stirring at about room temperature. After about 2 hours of stirring, the mixture was cooled and the precipitate was collected by filtration and washed with water. The solid was recrystallized in ethanol to give 2-benzyl-5-(E)-[(2-methoxy) benzylidene] cyclopentanone. The melting point of this intermediate product was determined to be 65°-67° C. A mixture containing 20 mmole of this intermediate, 38 mmole of dimethylamine hydrochloride, 2.4 g of paraformaldehyde and 4 drops of concentrated HCl in 50 ml of ethanol was refluxed with stirring. After about 12 hours, 1.8 g of paraformaldehyde was added and refluxing was continued for about 12 additional hours. The resulting solution was concentrated in vacuo to give a residue. Then 100 ml of water was added to the residue and stirred for about 15 minutes at about room temperature. The precipitate was removed by filtration. The resulting filtrate was treated with 10% NaOH to about pH 10 and extracted with ether. The extract was dried over anhydrous MgSO4 and acidified with ethanolic HCl to give a precipitate. The precipitate was recrystallized in a mixture of methanol and acetone to yield the 2-Benzyl-2-dimethylaminomethyl-5-(E)-[(2-methoxy) benzylidene] cyclopentanone hydrochloride. The melting point of the product was determined to be 175°-177° C.

reactant | 2-benzylcyclopentanone | 32 mmole | C(C1=CC=CC=C1)C1C(CCC1)=O | C12H14O
reactant | 2-methoxybenzaldehyde | 48 mmole | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | NaOH | 12 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-benzyl-5-(E)-[(2-methoxy) benzylidene] cyclopentanone | C(C1=CC=CC=C1)C1C(/C(/CC1)=C/C1=C(C=CC=C1)OC)=O | C20H20O2
